US07612067B2
F. {5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-trifluoromethyl-thiazol-2-yl}-dimethyl-amine.
100 mg of 3-(2-Bromo-4-trifluoromethyl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.22 mmol) and 218 mg of cesium carbonate (0.66 mmol) are placed in 4 ml reaction vial and 3 ml of dimethylamine 2 M in THF is added. The reaction vial is capped with a Teflon cap and heated at 120° C. overnight. The reaction mixture is filtered and concentrated and applied onto a silica-gel chromatography column (Hexane:AcOEt=3:1) to give 85 mg of the title compound. Yield 94%. mass spectrum (m/e): 412 (M+1).

reactant | 3-(2-Bromo-4-trifluoromethyl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.22 mmol, 100 mg | BrC=1SC(=C(N1)C(F)(F)F)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C17H18BrF3N4S
reactant | cesium carbonate | 0.66 mmol, 218 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylamine | 2 M, 3 ml | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | {5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-trifluoromethyl-thiazol-2-yl}-dimethyl-amine | 85 mg, Yield 94% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N(C)C)C(F)(F)F | C19H24F3N5S
